US07951801B2
6,6-Dimethyl-4-{-2-[(5-methyl-isoxazole-3-carbonyl)-amino]-propyl}-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared using [4-(2-Amino-propyl)-6,6-dimethyl-morpholin-3-ylmethyl]-(6-chloro-9H-beta-carbolin-8-yl)-amine and 5-methylisoxazole carbonyl chloride following Method E in 61% yield. 1H-NMR (300 MHz, DMSO): δ 11.2 (1H, s), 9.98 (1H, s), 9.0 (1H, s), 8.7 (1H, d), 8.6 (1H, d), 8.2 (2H, m), 7.9 (1H, s). 6.47 (1H, s), 3.87 (2H, m), 3.17 (2H,m), 2.9 (1H, d), 2.7 (1H, m), 2.3 (4H), 2.1 (1H, d), 1.29 (3H, s), 1.15 (6H, m). Retention time (LC, method: ammonium acetate standard): 1.81 min. MS (M+H+): 526

reactant | [4-(2-Amino-propyl)-6,6-dimethyl-morpholin-3-ylmethyl]-(6-chloro-9H-beta-carbolin-8-yl)-amine | NC(CN1C(COC(C1)(C)C)CNC=1C=C(C=C2C=3C=CN=CC3NC12)Cl)C | C21H28ClN5O
reactant | 5-methylisoxazole carbonyl chloride | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | 6,6-Dimethyl-4-{-2-[(5-methyl-isoxazole-3-carbonyl)-amino]-propyl}-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 61% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)CC(C)NC(=O)C1=NOC(=C1)C | C26H29ClN6O4
